US05506256
(2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(phenylthio)ethyl]pyrrolidine (908 mg) was dissolved in DMSO (3 ml) and benzene (3 ml), and thereto were added pyridine (162 μl), trifluoroacetic acid (78 μl) and DCC (1.24 g) in order, and the mixture was stirred at room temperature for 1 hour. Ethyl acetate (50 ml) was added to the reaction mixture, and oxalic acid (540 mg) in methanol (5 ml) was added thereto, followed by stirring for 30 minutes. Water (50 ml) was added to the reaction mixture and the resultant dicyclohexylurea was filtered off. The filtrate was washed with 1N hydrochloric acid, a saturated aqueous solution of sodium bicarbonate and saturated brine in order, and dried over magnesium sulfate, followed by concentration. The residue was purified by silica gel column chromatography (eluate: chloroform-methanol) to give 714 mg of (2S)-1-(N-benzyloxycarbonyl-L-prolyl)-2-[(Phenylthio) acetyl]pyrrolidine (See Table 1).

reactant | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(phenylthio)ethyl]pyrrolidine | 908 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(CSC2=CC=CC=C2)O)CCC1 | C25H30N2O4S
reactant | trifluoroacetic acid | 78 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | DCC | 1.24 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | oxalic acid | 540 mg | C(C(=O)O)(=O)O | C2H2O4
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 5 ml | CO | CH4O
solvent | Water | 50 ml | O | H2O
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 162 μl | N1=CC=CC=C1 | C5H5N
product | (2S)-1-(N-benzyloxycarbonyl-L-prolyl)-2-[(Phenylthio) acetyl]pyrrolidine | 714 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(CSC2=CC=CC=C2)=O)CCC1 | C25H28N2O4S
